US07906517B2
(3,5-Bis-trifluoromethyl-benzyl)-[2-(butyl-ethyl-amino)-5-trifluoromethyl-benzyl]-(6-chloropyrimidin-4-yl)-amine (300 mg) is dissolved in toluene (5 ml), and thereto are added 3-aminopropionic acid tert-butyl ester hydrochloride (888 mg) and N-ethyldiisopropylamine (1.7 ml), and the mixture is stirred at 120° C. overnight. To the reaction solution are added ethyl acetate and a 1N-hydrochloric acid, and the mixture is separated. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by column chromatography (hexane:ethyl acetate=9:1→3:1) to give tert-butyl 3-(6-{(3,5-bis-trifluoromethyl-benzyl)-[2-(butyl-ethyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-4-ylamino)-propionate (70 mg). MS (m/z): 722 [M+H]+

reactant | (3,5-Bis-trifluoromethyl-benzyl)-[2-(butyl-ethyl-amino)-5-trifluoromethyl-benzyl]-(6-chloropyrimidin-4-yl)-amine | 300 mg | FC(C=1C=C(CN(C2=NC=NC(=C2)Cl)CC2=C(C=CC(=C2)C(F)(F)F)N(CC)CCCC)C=C(C1)C(F)(F)F)(F)F | C27H26ClF9N4
reactant | 3-aminopropionic acid tert-butyl ester hydrochloride | 888 mg | Cl.C(C)(C)(C)OC(CCN)=O
reactant | N-ethyldiisopropylamine | 1.7 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 3-(6-{(3,5-bis-trifluoromethyl-benzyl)-[2-(butyl-ethyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-4-ylamino)-propionate | 70 mg | FC(C=1C=C(CN(C2=CC(=NC=N2)NCCC(=O)OC(C)(C)C)CC2=C(C=CC(=C2)C(F)(F)F)N(CC)CCCC)C=C(C1)C(F)(F)F)(F)F | C34H40F9N5O2
